US06087304
2.4 g of 6-{2-[4-(4-chlorophenyl)-1-piperazinyl]-ethoxy}-2-naphthoic acid are reacted with CDl and guanidine according to the general procedure (variant 1 a). 1.4 g of 6-{2-[4-(4-chlorophenyl)-1-piperazinyl]-ethoxy}-2-naphthoylguanidine dihydrochloride are obtained; m.p.: 269-271° C.

reactant | 6-{2-[4-(4-chlorophenyl)-1-piperazinyl]-ethoxy}-2-naphthoic acid | 2.4 g | ClC1=CC=C(C=C1)N1CCN(CC1)CCOC=1C=C2C=CC(=CC2=CC1)C(=O)O | C23H23ClN2O3
reactant | guanidine | NC(=N)N | CH5N3
product | 6-{2-[4-(4-chlorophenyl)-1-piperazinyl]-ethoxy}-2-naphthoylguanidine dihydrochloride | 1.4 g | Cl.Cl.ClC1=CC=C(C=C1)N1CCN(CC1)CCOC=1C=C2C=CC(=CC2=CC1)C(=O)NC(=N)N | InChI=1S/C24H26ClN5O2.2ClH/c25-20-4-6-21(7-5-20)30-11-9-29(10-12-30)13-14-32-22-8-3-17-15-19(2-1-18(17)16-22)23(31)28-24(26)27;;/h1-8,15-16H,9-14H2,(H4,26,27,28,31);2*1H
